* Delay stimulus for period of 0n load=0fF slew=0ns

* TT process corner
.lib "/home/manyberto/OpenRAM/ciel/sky130/versions/e8294524e5f67c533c5d0c3afa0bcc5b2a5fa066/sky130A/libs.tech/ngspice/sky130.lib.spice" tt
.include "/tmp/openram_manyberto_2405_temp/trimmed.sp"

* Global Power Supplies
Vvdd vdd 0 5

*Nodes gnd and 0 are the same global ground node in ngspice/hspice/xa. Otherwise, this source may be needed.
*Vgnd gnd 0 0.0

* Instantiation of the SRAM
Xsky130_sram_1rw_16x8_8 din0_0 din0_1 din0_2 din0_3 din0_4 din0_5 din0_6 din0_7 din0_8 din0_9 din0_10 din0_11 din0_12 din0_13 din0_14 din0_15 din0_16 a0_0 a0_1 a0_2 a0_3 CSB0 WEB0 clk0 WMASK0_0 WMASK0_1 SPARE_WEN0_0 dout0_0 dout0_1 dout0_2 dout0_3 dout0_4 dout0_5 dout0_6 dout0_7 dout0_8 dout0_9 dout0_10 dout0_11 dout0_12 dout0_13 dout0_14 dout0_15 dout0_16 vdd gnd sky130_sram_1rw_16x8_8

* SRAM output loads
CD00 dout0_0 0 0f
CD01 dout0_1 0 0f
CD02 dout0_2 0 0f
CD03 dout0_3 0 0f
CD04 dout0_4 0 0f
CD05 dout0_5 0 0f
CD06 dout0_6 0 0f
CD07 dout0_7 0 0f
CD08 dout0_8 0 0f
CD09 dout0_9 0 0f
CD010 dout0_10 0 0f
CD011 dout0_11 0 0f
CD012 dout0_12 0 0f
CD013 dout0_13 0 0f
CD014 dout0_14 0 0f
CD015 dout0_15 0 0f
CD016 dout0_16 0 0f

* Generation of data and address signals
* (time, data): [(0, 0), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 1), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0)]
Vdin0_0  din0_0  0 PWL (0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v )
* (time, data): [(0, 0), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 1), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0)]
Vdin0_1  din0_1  0 PWL (0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v )
* (time, data): [(0, 0), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 1), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0)]
Vdin0_2  din0_2  0 PWL (0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v )
* (time, data): [(0, 0), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 1), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0)]
Vdin0_3  din0_3  0 PWL (0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v )
* (time, data): [(0, 0), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 1), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0)]
Vdin0_4  din0_4  0 PWL (0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v )
* (time, data): [(0, 0), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 1), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0)]
Vdin0_5  din0_5  0 PWL (0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v )
* (time, data): [(0, 0), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 1), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0)]
Vdin0_6  din0_6  0 PWL (0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v )
* (time, data): [(0, 0), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 1), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0)]
Vdin0_7  din0_7  0 PWL (0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v )
* (time, data): [(0, 0), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 1), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0)]
Vdin0_8  din0_8  0 PWL (0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v )
* (time, data): [(0, 0), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 1), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0)]
Vdin0_9  din0_9  0 PWL (0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v )
* (time, data): [(0, 0), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 1), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0)]
Vdin0_10  din0_10  0 PWL (0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v )
* (time, data): [(0, 0), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 1), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0)]
Vdin0_11  din0_11  0 PWL (0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v )
* (time, data): [(0, 0), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 1), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0)]
Vdin0_12  din0_12  0 PWL (0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v )
* (time, data): [(0, 0), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 1), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0)]
Vdin0_13  din0_13  0 PWL (0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v )
* (time, data): [(0, 0), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 1), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0)]
Vdin0_14  din0_14  0 PWL (0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v )
* (time, data): [(0, 0), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 1), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0)]
Vdin0_15  din0_15  0 PWL (0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v )
* (time, data): [(0, 0), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 1), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0)]
Vdin0_16  din0_16  0 PWL (0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v )
* (time, data): [(0, 0), (0, 0), (0, 1), (0, 1), (0, 0), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 0), (0, 0), (0, 0), (0, 1), (0, 1)]
Va0_0 a0_0 0 PWL (0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v )
* (time, data): [(0, 0), (0, 0), (0, 1), (0, 1), (0, 0), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 0), (0, 0), (0, 0), (0, 1), (0, 1)]
Va0_1 a0_1 0 PWL (0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v )
* (time, data): [(0, 0), (0, 0), (0, 1), (0, 1), (0, 0), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 0), (0, 0), (0, 0), (0, 1), (0, 1)]
Va0_2 a0_2 0 PWL (0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v )
* (time, data): [(0, 0), (0, 1), (0, 0), (0, 0), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 1), (0, 1), (0, 1), (0, 0), (0, 0)]
Va0_3 a0_3 0 PWL (0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v )

* Generation of control signals
* (time, data): [(0, 1), (0, 0), (0, 0), (0, 1), (0, 0), (0, 0), (0, 1), (0, 1), (0, 0), (0, 1), (0, 0), (0, 1), (0, 0), (0, 0), (0, 1)]
VCSB0 CSB0 0 PWL (0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v )
* (time, data): [(0, 1), (0, 0), (0, 0), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 0), (0, 1), (0, 0), (0, 1), (0, 1), (0, 1), (0, 1)]
VWEB0 WEB0 0 PWL (0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v )
* (time, data): [(0, 0), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1)]
VWMASK0_0 WMASK0_0 0 PWL (0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v )
* (time, data): [(0, 0), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1)]
VWMASK0_1 WMASK0_1 0 PWL (0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v )

* Generation of Port clock signal
* PULSE: period=0
VCLK0 CLK0 0 PULSE (0 5 0n 0n 0n 0.0n 0n)
.include /home/manyberto/OpenRAM/results/sky130_sram_1rw_16x8_8/delay_meas.sp
* Measure statements for delay and power

* probe is used for hspice/xa, while plot is used in ngspice
*.probe V(*)
*.plot V(*)
.end

